US07915411B2
A mixture of 2-methyl-4-nitro-5-chloro phenol (1.5 g, 8.0 mmol), 4-Acetamido thiophenol (1.6 g, 8.8 mmol) and cesium carbonate (5.74 g, 17.6 mmol) in DMF (10 mL) was heated 2.5 h at 100° C. The mixture was cooled, diluted with ethyl acetate (100 mL) and the organic layer was washed with water and aqueous 10% sodium chloride solution, then, dried over anhydrous sodium sulfate. The drying agent was filtered and the solvent removed under vacuum leaving N-[4-(5-Hydroxy-4-methyl-2-nitro-phenylsulfanyl)-phenyl]-acetamide as a solid (2.5 g, 81%). A solution of N-[4-(5-Hydroxy-4-methyl-2-nitro-phenylsulfanyl)-phenyl]-acetamide (2.5 g, 6.45 mmol), iron powder (1.79 g, 32 mmol) and ammonium chloride (0.514 g, 9.6 mmol) in a methanol (10 mL), tetrahydrofuran (10 mL), and water (5 mL) solution was heated to reflux for 1.5 hours. The resultant mixture was diluted with methanol (50 mL) and filtered through a pad of celite. The filtrate was concentrated under vacuum to a volume of 10 mL, the solution diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The combined extracts were washed with 10% sodium chloride then dried over magnesium sulfate, filtered and concentrated under vacuum to provide N-[4-(2-Amino-5-hydroxy-4-methyl-phenylsulfanyl)-phenyl]-acetamide (1.7 g, 91%).

reactant | N-[4-(5-Hydroxy-4-methyl-2-nitro-phenylsulfanyl)-phenyl]-acetamide | 6.45 mmol, 2.5 g | OC=1C(=CC(=C(C1)SC1=CC=C(C=C1)NC(C)=O)[N+](=O)[O-])C | C15H14N2O4S
reactant | ammonium chloride | 9.6 mmol, 0.514 g | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | water | 5 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
catalyst | iron | 32 mmol, 1.79 g | [Fe] | Fe
solvent | methanol | 10 mL | CO | CH4O
product | N-[4-(2-Amino-5-hydroxy-4-methyl-phenylsulfanyl)-phenyl]-acetamide | 1.7 g, 91% | NC1=C(C=C(C(=C1)C)O)SC1=CC=C(C=C1)NC(C)=O | C15H16N2O2S
